US05422360
In 20 ml of dimethylformamide (DMF) was suspended 96 mg of 60% sodium hydride under ice-cooling, 5 ml of a DMF solution of 548 mg of 2-benzylidenehydrazono-1-methoxycarbonylmethylimidazolidin-4-one was gradually added to the suspension. After stirring the mixture for one hour at 30° C., 254 mg of ethyl chloroacetate was gradually added dropwise thereto, followed by stirring for one hour at 80° C. After cooling the reaction mixture, water and chloroform was added thereto to distribute the mixture between water and chloroform, and the aqueous layer was further extracted three times with chloroform. The organic layer was combined with the extract, the mixture was dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and the residue formed was recrystallized from a mixture of chloroform and n-hexane to obtain 320 mg of 2-benzylidenehydrazono-3-ethoxycarbonylmethyl-1-methoxycarbonylmethylimidazolidin-4-one.

reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | 2-benzylidenehydrazono-1-methoxycarbonylmethylimidazolidin-4-one | 548 mg | C(C1=CC=CC=C1)=NN=C1N(CC(N1)=O)CC(=O)OC | C13H14N4O3
reactant | ethyl chloroacetate | 254 mg | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-benzylidenehydrazono-3-ethoxycarbonylmethyl-1-methoxycarbonylmethylimidazolidin-4-one | 320 mg | C(C1=CC=CC=C1)=NN=C1N(CC(N1CC(=O)OCC)=O)CC(=O)OC | C17H20N4O5
